US07494992B2
(1S,2R,4aS,5R,8R,8aR)-2-[(cyclopropylcarbonyl)oxy]-8a-hydroxy-3,8-dimethyl-5-(1-methylethenyl)-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl(2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate
To a solution of (1S,2R,4aS,5R,8R,8aR)-2,8a-dihydroxy-3,8-dimethyl-5-(1-methylethenyl)-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b -hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate (Preparation 139, 100 mg, 0.19 mmol) and 4-dimethylaminopyridine (30 mg, 0.25 mmol) in tetrahydrofuran (10 ml) was added cyclopropanecarboxylic acid (400 mg, 4.7 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (90 mg, 0.58 mmol) and the resulting mixture stirred at room temperature for 18 h. The reaction mixture was passed through a Sepak® cartridge (silica, 1.5 g) to remove insoluble material and the solvent removed in vacuo. The crude product was purified to give the title compound (20 mg, 18%).

reactant | (1S,2R,4aS,5R,8R,8aR)-2,8a-dihydroxy-3,8-dimethyl-5-(1-methylethenyl)-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b -hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate | 0.19 mmol, 100 mg | ClC1=CC=CC=2[C@]3([C@@H](ON(C21)C)N[C@@H](C3)C(=O)O[C@H]3[C@@H](C(=C[C@H]2[C@@H](CC[C@H]([C@]32O)C)C(=C)C)C)O)O | C27H35ClN2O6
reactant | cyclopropanecarboxylic acid | 4.7 mmol, 400 mg | C1(CC1)C(=O)O | C4H6O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.58 mmol, 90 mg | Cl.CN(CCCN=C=NCC)C
catalyst | 4-dimethylaminopyridine | 0.25 mmol, 30 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (1S,2R,4aS,5R,8R,8aR)-2-[(cyclopropylcarbonyl)oxy]-8a-hydroxy-3,8-dimethyl-5-(1-methylethenyl)-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl(2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate | 20 mg, 18% | ClC1=CC=CC=2[C@]3([C@@H](ON(C21)C)N[C@@H](C3)C(=O)O[C@H]3[C@@H](C(=C[C@H]2[C@@H](CC[C@H]([C@]32O)C)C(=C)C)C)OC(=O)C3CC3)O | C31H39ClN2O7
